US05516774
10,11-Dihydro-5H-imidazo[2,1-c][1,4]benzodiazepine
To a suspension of 4 mmol of lithium aluminum hydride in 20 ml of anhydrous tetrahydrofuran is added a 1 mmol solution of 10,11-dihydro-11-oxo-5H-imidazo-[2,1-c][1,4]benzodiazepine and the mixture is refluxed for 24 hours and cooled at 0° C. To the mixture is added dropwise 0.12 ml of water and 6 ml of 1N sodium hydroxide. The mixture is extracted with ethyl acetate and the solvent removed to give the desired product as a solid. Recrystallization from methylene chloride-hexane gives crystals, m.p. 164°-170° C.

reactant | lithium aluminum hydride | 4 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 10,11-dihydro-11-oxo-5H-imidazo-[2,1-c][1,4]benzodiazepine | O=C1NC2=C(CN3C1=NC=C3)C=CC=C2 | C11H9N3O
reactant | water | 0.12 ml | O | H2O
reactant | sodium hydroxide | 1N, 6 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 10,11-Dihydro-5H-imidazo[2,1-c][1,4]benzodiazepine | N=1C=CN2C1CNC1=C(C2)C=CC=C1 | C11H11N3
